US05157041
A solution of 11.4 g of 3(S)-(benzyloxyformamido)-1-chloro-4-phenyl-2(S)-butanol in 300 ml of ethanol containing 2.24 g of potassium hydroxide was left to stand for 15 minutes. The solvent was removed by evaporation and the residue was partitioned between water and dichloromethane. Working-up gave 10.1 g of crude 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane as an off-white solid which was used without further purification.

reactant | 3(S)-(benzyloxyformamido)-1-chloro-4-phenyl-2(S)-butanol | 11.4 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CCl)O)CC1=CC=CC=C1 | C18H20ClNO3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 300 ml, 2.24 g | C(C)O | C2H6O
product | 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane | 10.1 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C18H19NO3
